US05256680
To a solution of 2,6-bis(1,1 dimethylethyl)-4-[5-(methylsulfonyl)-1,3,4-thiadiazole-2-yl]phenol (2.0 %, 0.0054 mole) in ethanol (10 ml) is added 25% ethanolic methylamine solution (15 ml), followed by triethylamine (0.6 g, 0.006 mole). The resulting mixture is heated to reflux for three hours. An additional amount of 25% ethanolic methylamine (15 ml) solution is added and the mixture is stirred overnight at reflux. The solution is cooled and the volatiles removed under reduced pressure. The residue is purified by flash chromatography (SiO2) using 30% ethyl acetate/hexane eluent. Recrystallize from ethyl acetate/hexane to obtain 0.8 g (1.7 g theor., 48%) of 2,6-bis(1,1-dimethylethyl)-4-[5-(methylamino)-1,3,4-thiadiazol-2-yl]phenol, mp 207.5°-208° C.

reactant | 2,6-bis(1,1 dimethylethyl)-4-[5-(methylsulfonyl)-1,3,4-thiadiazole-2-yl]phenol | 0.0054 mole | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)S(=O)(=O)C)C(C)(C)C)O | C17H24N2O3S2
reactant | methylamine | 15 ml | CN | CH5N
reactant | triethylamine | 0.006 mole, 0.6 g | C(C)N(CC)CC | C6H15N
reactant | methylamine | 15 ml | CN | CH5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,6-bis(1,1-dimethylethyl)-4-[5-(methylamino)-1,3,4-thiadiazol-2-yl]phenol | 0.8 g, 48% | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)NC)C(C)(C)C)O | C17H25N3OS
